US07749992B2
Add 3,5-bis(trifluoromethyl)benzylamine (0.1 g, 0.4 mmol) followed by titanium isopropoxide (1.0 mL) to 5-Oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester (0.13 g, 0.4 mmol) and stir at room temperature overnight. Dilute the mixture with 5 mL of Methanol and add sodium borohydride (0.8 mmol). Stir the suspension at room temperature for 30 min then dilute with water (20 mL) and ethyl acetate (20 mL). Filter the resulting emulsion through celite and wash with ethyl acetate (3×20 mL). Separate the organics, dry over sodium sulfate, and filter. Remove the solvent under vacuum to afford (+/−)-t-butyl-5-(3,5-bistrifluoromethylbenzylamino)-7-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate crude (0.2 g, MS (ES+): 557 (M+H)). Without further purification, add acetyl chloride (0.8 mmol) and pyridine (0.8 mmol) to a solution of (+/−)-t-butyl-5-(3,5-bistrifluoromethylbenzylamino)-7-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate in dichloromethane. After stirring for 2 h remove solvent under vacuum and chromatograph over silica gel using ethyl acetate/hexane (5-40%) to elute. This affords the title compound as an oil (0.2 g, 83%) which foams under vacuum: MS (ES−): 597 (M−H).

reactant | 3,5-bis(trifluoromethyl)benzylamine | 0.4 mmol, 0.1 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | 5-Oxo-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 0.4 mmol, 0.13 g | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C=C(C=C2)C(F)(F)F | C16H18F3NO3
reactant | sodium borohydride | 0.8 mmol | [BH4-].[Na+]
solvent | Methanol | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | titanium isopropoxide | 1.0 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (+/−)-t-butyl-5-(3,5-bistrifluoromethylbenzylamino)-7-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | C(C)(C)(C)OC(=O)N1C2=C(C(CCC1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C=C2)C(F)(F)F | C25H25F9N2O2
